Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-6.14433431135
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:1],7.76132146768
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10].[O:11][H:12],5.5608347998
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.88877034253
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])[H:12],0.21226244432
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:6],1.87641583007
[H:1][C:2]([C:3]1([H:4])[O:5][O:6]1)[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3](/[H:4])[O:5][O:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.435451030429
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][C:2][H:3],5.06940757679
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],4.32029008711
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][O:8][H:9]>>[C:3]([H:4])[O:5][C:6]#[C:7][O:8][H:9].[H:1][C:2],7.570235896719999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8],1.93964699306
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.55258525517
[C:3][C:4]([H:5])([H:6])[O:7][H:8].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][H:8],-6.43771326698
[C:2]#[C:3][H:4].[H:1]>>[H:1][C:2]#[C:3][H:4],-5.9751350724000005
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:7]([H:8])[H:9],2.29664067033
[H:1].[O:2]=[C:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.62411378947
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],0.32857734304
[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[H:11],4.6184153428500005
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.31333410966
[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-4.4820624065
[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-1.21423077484
[H:3].[O:1][C:2]#[C:4][C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-3.72864259802
[C:4]([H:5])([H:6])[C:7]1=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-5.22064092208
[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2]>>[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-3.01468464499
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4](/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],1.42975817817
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]#[C:4][H:5].[H:1][C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],6.953825913539999
[O:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[H:10].[O:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9],5.03350106797
[C:1]#[C:2][C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3](=[O:4])[C:7]([H:8])([H:9])[H:10].[C:5][H:6],4.74471913165
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],0.722050634959
